US05728835
N-{2-[4-(4-Fluorobenzoyl)piperidino]ethyl}-N-(2-methoxyphenyl)-4-(methylamino)methylbenzamide
4-(N-tert-Butoxycarbonyl-N-methylamino)methyl-N-{2-[4-(4-fluorobenzoyl)piperidino]ethyl}-N-(2-methoxyphenyl)benzamide (144 mg, 0.239 mmol) was dissolved in methylene chloride (4 ml) to which was subsequently added dropwise trifluoroacetic acid (0.4 ml) while cooling in an ice bath. After 2 hours of stirring at the same temperature, the solvent was removed by evaporation, and the resulting residue was diluted with methylene chloride (10 ml), washed with saturated sodium bicarbonate aqueous solution and saturated brine, and then dried on anhydrous sodium carbonate. Thereafter, the solvent was removed by evaporation to obtain 119 mg (98.9%) of the title compound in a colorless amorphous form.

reactant | 4-(N-tert-Butoxycarbonyl-N-methylamino)methyl-N-{2-[4-(4-fluorobenzoyl)piperidino]ethyl}-N-(2-methoxyphenyl)benzamide | 0.239 mmol, 144 mg | C(C)(C)(C)OC(=O)N(C)CC1=CC=C(C(=O)N(C2=C(C=CC=C2)OC)CCN2CCC(CC2)C(C2=CC=C(C=C2)F)=O)C=C1 | C35H42FN3O5
reactant | trifluoroacetic acid | 0.4 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 4 ml | C(Cl)Cl | CH2Cl2
product | N-{2-[4-(4-Fluorobenzoyl)piperidino]ethyl}-N-(2-methoxyphenyl)-4-(methylamino)methylbenzamide | 119 mg, 98.9% | FC1=CC=C(C(=O)C2CCN(CC2)CCN(C(C2=CC=C(C=C2)CNC)=O)C2=C(C=CC=C2)OC)C=C1 | C30H34FN3O3
